US07291744B2
Step d: Synthesis of 1-(para-fluorophenyl)-3-(acetamido)propane
1-(para-fluorophenyl)-3-aminopropane (1.00 g, 6.53 mmol, 1 eq.) and triethylamine (0.91 mL, 6.53 mmol, 1 eq.) were dissoved in THF (10 mL) at 25° C. under N2. Then a THF solution (5 mL) of acetyl chloride (0.46 mL, 6.53 mmol, 1 eq.) was added dropwise via an addition funnel over 10 minutes. Worked up after 20 minutes by filtering off the solids then stripping the filtrate to obtain an amber oil. The oil was purified over silica gel in 1:1 Hexanes/EtOAc to 100% EtOAc to 4:1 EtOAc/MeOH. Obtained 1.10 g of an amber oil as product. MS (ESI) detects (M+H)+=196.

reactant | 1-(para-fluorophenyl)-3-aminopropane | 6.53 mmol, 1.00 g, 1 eq. | FC1=CC=C(C=C1)CCCN | C9H12FN
reactant | triethylamine | 6.53 mmol, 0.91 mL, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 6.53 mmol, 0.46 mL, 1 eq. | C(C)(=O)Cl | C2H3ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(para-fluorophenyl)-3-(acetamido)propane | 1.10 g | FC1=CC=C(C=C1)CCCNC(C)=O | C11H14FNO
